* C:\Users\chris\Documents\GitHub\uni\Semester_3\Elektronik\Labor\1\1.asc
* Generated by LTspice 26.0.1 for Windows.
V_Plus N001 0 5
v_in N003 N006 SINE(0 1m 1k) AC 1
V_in0 N006 0 1
R_G N004 N003 10k
R_D N002 N001 2.5k
R_S 0 N005 100
M1 N002 N004 N005 N005 MY_TN0702
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\chris\AppData\Local\LTspice\lib\cmp\standard.mos
.include HKAmodel.lib
.OPTIONS ALLOW_AMBIGUOUS_MODELS
.MODEL MY_TN0702 NMOS (VTO=0.8278 L=2.5u W=20m KP=33.923u LAMBDA=0.059121)
.tran 0 5m
.backanno
.end
