* C:\Users\chris\Obsidian\Studium\Semester_3\Elektronik\Labor\3\3_2_c.asc
* Generated by LTspice 26.0.1 for Windows.
VPlus N001 0 5
V1 in 0 AC 1
RG1 N001 G 256.8k
RG2 G 0 245.2k
RS N001 S 330
RL out 0 16
C1 G in 10µ
C2 out S 10µ
M1 0 G S S LP0701
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\chris\AppData\Local\LTspice\lib\cmp\standard.mos
.MODEL LP0701 PMOS (LEVEL=3 RS=0.10 NSUB=1.0E15 DELTA=0.1 KAPPA=0.10123
+ TPG=-1 CGDO=8.3432E-10 RD=0.350 VTO=-0.50 VMAX=1.0E7 ETA=0.0223089
+ NFS=6.6E10 TOX=3.5E-8 LD=1.698E-9 UO=862.425 XJ=6.4666E-7 THETA=1.0E-5
+ CGSO=5.21798E-9 L=3.0E-6 W=3.82E-1 KP=2.6E-6)
.ac dec 100 1 100meg
.backanno
.end
