* simulator lang = spice

*****************************************
* Hochschule Karlsruhe - Fakultaet EIT
* Prof. Dr. Herman Jalli Ng (herman-jalli.ng@h-ka.de)
* Modelle fuer verschiedene Komponente
*****************************************

*****************************************
.subckt op1 inp inn out
* Universal Opamp Level 1
* Single pole opamp without voltage rails and referenced to GND
* 
* PINOUT ORDER  1   2   3
* PINOUT ORDER inp inn out
* 
* Parameters:
* Avol => open-loop voltage gain (V/V), default=10meg
* GBW => gain-bandwidth product (Hz), default=100g
* Rin => differential input resistance (ohm), default=100g
* Rout => open-loop output resistance (ohm), default=1m
* 
R1 inp inn 'Rin'
G1 0 out inp inn 'Avol/Rout'
R2 out 0 100g
C3 out 0 'Avol/(2*pi*GBW*Rout)'
.param Avol=10meg
.param GBW=100g
.param Rin=100g
.param Rout=1m
.param pi=3.1415926535898
.ends
*****************************************

*****************************************
.subckt op2 inp inn out vcc vee
* Universal Opamp Level 2
* Single pole opamp with rail saturation, current consumption, current limiting, and input offset voltage
* 
* PINOUT ORDER  1   2   3   4   5
* PINOUT ORDER inp inn out vcc vee
* 
* Parameters:
* Avol => open-loop voltage gain (V/V), default=10meg
* GBW => gain-bandwidth product (Hz), default=100g
* Rin => differential input resistance (ohm), default=100g
* Rout => open-loop output resistance (ohm), default=1m
* Iq => quiescent supply current (A), default=1m
* Ilimit => maximum output current (A), default=10
* Vrail => voltage between output saturation and each rail (V), default=0
* Vos => input offset voltage (V), default=0
* Vmax => total maximum supply voltage between rails (V), default=50
* 
G1 vcc N001 N002 inn 1u
G2 vee N001 N002 inn 1u
R1 vcc N001 'Avol/1u'
R2 N001 vee 'Avol/1u'
G3 out vcc vcc N001 '1/(2*Rout)'
G4 vee out N001 vee '1/(2*Rout)'
R4 vcc out '2*Rout'
R5 out vee '2*Rout'
C1 vcc N001 '1u/(2*pi*GBW)'
C2 N001 vee '1u/(2*pi*GBW)'
G6 N005 vee N001 out '1/(2*Rout)'
G5 N006 vee out N001 '1/(2*Rout)'
R8 inn inp 'Rin'
V6 vcc N003 'Vrail+545m'
V7 N008 vee 'Vrail+545m'
V8 N002 inp 'Vos'
V9 out N007 'Ilimit-545m'
V10 N004 out 'Ilimit-545m'
D1 N001 N003 diode
D2 N008 N001 diode
D3 vcc N005 diode
D4 vcc N006 diode
D5 vee N005 zener
D6 vee N006 zener
D7 N001 N004 diode
D8 N007 N001 diode
I1 vcc vee 'Iq'
.param Avol = 10meg
.param GBW = 100g
.param Rin = 1000g
.param Rout = 1m
.param Iq = 1m
.param Ilimit = 10
.param Vrail = 0
.param Vos = 0
.param Vmax = 50
.model diode D(Is=1e-14)
.model zener D(Is=1e-14 BV='Vmax')
.param pi=3.1415926535898
.ends
*****************************************

*****************************************
* Discrete Transistors
*****************************************
.model BC547B NPN (IS=2.39E-14 NF=1.008 ISE=3.545E-15 NE=1.541 BF=294.3 IKF=0.1357 VAF=63.2 NR=1.004 ISC=6.272E-14 NC=1.243 BR=7.946 IKR=0.1144 VAR=25.9 RB=1 IRB=1.00E-06 RBM=1 RE=0.4683 RC=0.85 XTB=0 EG=1.11 XTI=3 CJE=1.358E-11 VJE=0.65 MJE=0.3279 TF=4.391E-10 XTF=120 VTF=2.643 ITF=0.7495 PTF=0 CJC=3.728E-12 VJC=0.3997 MJC=0.2955 XCJC=0.6193 TR=1.00E-32 CJS=0 VJS=0.75 MJS=0.333 FC=0.9579 Vceo=45 Icrating=100m mfg=Philips)

.model BC547C NPN (IS=4.679E-14 NF=1.01 ISE=2.642E-15 NE=1.581 BF=458.7 IKF=0.1371 VAF=52.64 NR=1.019 ISC=2.337E-14 NC=1.164 BR=11.57 IKR=0.1144 VAR=364.5 RB=1 IRB=1.00E-06 RBM=1 RE=0.2598 RC=1 XTB=0 EG=1.11 XTI=3 CJE=1.229E-11 VJE=0.5591 MJE=0.3385 TF=4.689E-10 XTF=160 VTF=2.828 ITF=0.8842 PTF=0 CJC=4.42E-12 VJC=0.1994 MJC=0.2782 XCJC=0.6193 TR=1.00E-32 CJS=0 VJS=0.75 MJS=0.333 FC=0.7936 Vceo=45 Icrating=100m mfg=Philips)

.model BC557B PNP (IS=3.83E-14 NF=1.008 ISE=1.22E-14 NE=1.528 BF=344.4 IKF=0.08039 VAF=21.11 NR=1.005 ISC=2.85E-13 NC=1.28 BR=14.84 IKR=0.047 VAR=32.02 RB=1 IRB=1.00E-06 RBM=1 RE=0.6202 RC=0.5713 XTB=0 EG=1.11 XTI=3 CJE=1.23E-11 VJE=0.6106 MJE=0.378 TF=5.60E-10 XTF=3.414 VTF=5.23 ITF=0.1483 PTF=0 CJC=1.08E-11 VJC=0.1022 MJC=0.3563 XCJC=0.6288 TR=1.00E-32 CJS=0 VJS=0.75 MJS=0.333 FC=0.8027 Vceo=45 Icrating=100m mfg=Philips)

.model BC557C PNP (IS=5.83E-14 NF=1.009 ISE=3.88E-15 NE=1.408 BF=516.7 IKF=0.08039 VAF=26.03 NR=1.006 ISC=4.01E-14 NC=1.313 BR=12.45 IKR=0.07238 VAR=6.717 RB=1 IRB=1.00E-06 RBM=1 RE=0.5685 RC=0.6257 XTB=0 EG=1.11 XTI=3 CJE=1.26E-11 VJE=0.3809 MJE=0.3545 TF=5.23E-10 XTF=4.339 VTF=5.425 ITF=0.1896 PTF=0 CJC=7.80E-12 VJC=0.5897 MJC=0.4569 XCJC=0.6288 TR=1.00E-32 CJS=0 VJS=0.75 MJS=0.333 FC=0.5729 Vceo=45 Icrating=100m mfg=Philips)

.model CA3046 npn ( IS=10.0f XTI=3.0 EG=1.11 VAF=100 VAR=100 BF=145.7 ISE=114.286f NE=1.480 IKF=46.7m XTB=0 BR=0.1 ISC=10.005f NC=2.0 IKR=10m RC=10.0 CJC=991.7f MJC=0.333 VJC=0.75 FC=0.5 CJE=1.02p MJE=0.336 VJE=0.75 TR=10n TF=277.01p ITF=1.75 XTF=309.38 VTF=16.37 PTF=0 RE=0 RB=0 Vceo=20 Icrating=0.1A mfg=Fairchild)

.MODEL CA3096_npn NPN (IS=10.000E-15 BF=466.52 VAF=100 IKF=14.030E-3 ISE=74.093E-15 NE=1.6606 BR=.1001 VAR=100 IKR=10.010E-3 ISC=10.000E-15 NK=.46898 RC=10 CJE=1.2825E-12 MJE=.33333 CJC=786.59E-15 MJC=.33333 TF=490.39E-12 XTF=5.3212 VTF=28.396 ITF=.27408 TR=10.000E-9 Vceo=20 Icrating=0.1A mfg=Fairchild)

.MODEL CA3096_pnp PNP (IS=10.000E-15 BF=94.511 VAF=100 IKF=1.1177E-3 ISE=976.47E-15 NE=1.9980 BR=.1001 VAR=100 IKR=10.010E-3 ISC=10.000E-15 NK=.53243 CJE=1.4535E-12 MJE=.33333 CJC=3.8474E-12 MJC=.33333 TF=24.300E-9 XTF=10.054 VTF=9.7920 ITF=1.2571 TR=10.000E-9 Vceo=20 Icrating=0.1A mfg=Fairchild)

.MODEL TN0104 NMOS (LEVEL=3 RS=0.0205 NSUB=1.0E15 DELTA=0.1 KAPPA=0.0506 TPG=1 CGDO=6.1716E-10 RD=0.239 VTO=1.000 VMAX=1.0E7 ETA=0.0223089 NFS=6.6E10 TOX=1.00E-7 LD=1.698E-9 UO=862.425 XJ=6.4666E-7 THETA=1.0E-5 CGSO=9.10E-9 L=2.5E-6 W=0.9E-2)

.MODEL TN0702 NMOS (LEVEL=3 RS=3.56E-3 NSUB=1.0E15 DELTA=0.1 KAPPA=0.10123 TPG=1 CGDO=8.3432E-10 RD=0.2039 VTO=0.900 VMAX=1.0E7 ETA=0.0223089 NFS=6.6E10 TOX=7E-8 LD=1.698E-9 UO=862.425 XJ=6.4666E-7 THETA=1.0E-5 CGSO=5.21798E-9 L=2.5E-6 W=2.0E-2)

.MODEL LP0701 PMOS (LEVEL=3 RS=0.10 NSUB=1.0E15 DELTA=0.1 KAPPA=0.10123 TPG=-1 CGDO=8.3432E-10 RD=0.350 VTO=-0.50 VMAX=1.0E7 ETA=0.0223089 NFS=6.6E10 TOX=3.5E-8 LD=1.698E-9 UO=862.425 XJ=6.4666E-7 THETA=1.0E-5 CGSO=5.21798E-9 L=3.0E-6 W=3.82E-1 KP=2.6E-6)

.MODEL TP2635 PMOS (LEVEL=3 RS=0.20 NSUB=1.5E15 DELTA=1.0 KAPPA=1.20 TPG=-1 CGDO=1.916E-10 RD=9.5 VTO=-1.10 VMAX=5.0E6 ETA=0.053089 NFS=6.6E10 TOX=750E-10 LD=1.698E-9 UO=862.425 XJ=6.4666E-7 THETA=1.0E-5 CGSO=1.750E-9      L=2.5E-6 W=100E-3 KP=2.5E-6)

.MODEL ALD1106 NMOS (LEVEL=1 CBD=0.5p CBS=0.5p CGDO=0.1p CGSO=0.1p GAMMA=.85 KP=225u LAMBDA=0.029 PHI=.9 VTO=0.7 W=20u L=10u)

.MODEL ALD1107 PMOS (LEVEL=1 CBD=0.5p CBS=0.5p CGDO=0.1p CGSO=0.1p GAMMA=.45 KP=100u LAMBDA=0.0304 PHI=.8 VTO=-0.82 W=20u L=10u)

.MODEL BF245B NJF (VTO=-2.3085 BETA=1.09045m LAMBDA = 23.1754m RD=7.77648 RS=7.77648 IS=2.59121E-016 CGS=2.00000p CGD=2.20000p PB=0.991494 FC=0.5)


